US07989460B2
A solution of the crude tert-butyl 2,5-dihydro-1H-pyrrole-1-carboxylate mixture (57.5 g; 0.22 mol) in acetone (500 mL) was added dropwise to a mixture of N-methyl morpholine-N-oxide (28.45 g; 0.243 mol), osmium tetroxide (1.0 g; 0.004 mol) and water (500 mL) while keeping the temperature below 25° C. The reaction mixture was then stirred for 5 hours at ambient temperature. Acetone was evaporated off and the organic phase extracted with ethyl acetate. The combined organic phases were washed in turn with water and brine and dried over magnesium sulphate. The solvent was evaporated under vacuum and the residue was purified by column chromatography on silica using increasingly polar solvent mixtures, starting with ethyl acetate/petroleum ether (1/1) and ending with pure ethyl acetate. A second flash chromatography using increasingly polar solvent mixtures, starting with methanol/dichloromethane (2/98) and ending with methanol/dichloromethane (5/95) was done. Evaporation of the solvent gave tert-butyl (3R,4S)-3,4-dihydroxypyrrolidine-1-carboxylate (34.6 g; 77%) as a brown oil.

reactant | tert-butyl 2,5-dihydro-1H-pyrrole-1-carboxylate | 0.22 mol, 57.5 g | N1(CC=CC1)C(=O)OC(C)(C)C | C9H15NO2
reactant | N-methyl morpholine-N-oxide | 0.243 mol, 28.45 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | water | 500 mL | O | H2O
solvent | acetone | 500 mL | CC(=O)C | C3H6O
catalyst | osmium tetroxide | 0.004 mol, 1.0 g | [Os](=O)(=O)(=O)=O
product | tert-butyl (3R,4S)-3,4-dihydroxypyrrolidine-1-carboxylate | 34.6 g, 77% | O[C@@H]1CN(C[C@@H]1O)C(=O)OC(C)(C)C | C9H17NO4
